US06943159B1
3-hydroxyphenylboronic acid:
A stirred solution of 3-aminophenylboronic acid hemisulfate (6.2 g; 33.3 mmol) and 50% H2SO4 (3.7 ml; 33.3 mmol) in H2O (100 ml) at −2° C. was solution of NaNO2 (2.5 g; 36.3 mmol) in H2O (20 ml) over 1 h. The reaction mixture was slowly added to a stirred solution of conc. H2SO4 (25 ml) in H2O (20 ml) at reflux. After complete addition, the reaction mixture was refluxed for 30 min., cooled, added activated charcoal, heated to reflux, cooled and filtered through celite. The filtrate was saturated with NaCl (s), filtered and extracted with Et2O (5×100 ml). The combined organic fractions were dried (Na2SO4) and evaporated to dryness to give 4.3 g (94%) product.

reactant | 3-aminophenylboronic acid hemisulfate | 33.3 mmol, 6.2 g | S(=O)(=O)(O)O.NC=1C=C(C=CC1)B(O)O.NC=1C=C(C=CC1)B(O)O
reactant | H2SO4 | 33.3 mmol, 3.7 ml | OS(=O)(=O)O | H2O4S
reactant | NaNO2 | 36.3 mmol, 2.5 g | N(=O)[O-].[Na+]
reactant | H2SO4 | 25 ml | OS(=O)(=O)O | H2O4S
reactant | charcoal | C | CH4
solvent | H2O | 100 ml | O | H2O
solvent | H2O | 20 ml | O | H2O
solvent | H2O | 20 ml | O | H2O
product | 3-hydroxyphenylboronic acid | 4.3 g, 94% | OC=1C=C(C=CC1)B(O)O | C6H7BO3
